US06919331B2
To a solution of 2,2-dimethyl-propionic acid 4-[5-(tert-butoxycarbonylamino-methyl)-2-(3-cyclopropyl-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-ylmethyl)-benzoimidazol-1-yl]-butyl ester (110 mg, 0.178 mmol) in methanol (5 mL) and water (1.5 mL) was added 1M NaOH (356 μL, 0.356 mmol). The resulting mixture was heated at 70-80° C. for 2 hrs. The solution was neutralized with 1M HCl, methanol was removed in vacuo and the aqueous residue extracted with ethyl acetate (3×10 mL). The combined organic layers were washed with brine and dried (MgSO4). Purification by flash chromatography (eluent 2%, 5% methanol in DCM) afforded [2-(3-Cyclopropyl-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-ylmethyl)-1-(4-hydroxy-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester (60 mg, 63%) as a white solid.

reactant | 2,2-dimethyl-propionic acid 4-[5-(tert-butoxycarbonylamino-methyl)-2-(3-cyclopropyl-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-ylmethyl)-benzoimidazol-1-yl]-butyl ester | 0.178 mmol, 110 mg | C(C)(C)(C)OC(=O)NCC1=CC2=C(N(C(=N2)CN2C(N(C(C3=CC=CC=C23)=O)C2CC2)=O)CCCCOC(C(C)(C)C)=O)C=C1 | C34H43N5O6
reactant | NaOH | 0.356 mmol, 1M, 356 μL | [OH-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 1.5 mL | O | H2O
product | [2-(3-Cyclopropyl-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-ylmethyl)-1-(4-hydroxy-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester | 60 mg, 63% | C(C)(C)(C)OC(NCC1=CC2=C(N(C(=N2)CN2C(N(C(C3=CC=CC=C23)=O)C2CC2)=O)CCCCO)C=C1)=O | C29H35N5O5
